spice
* NMOS with gate at Vin, drain at Vout, source at Vb
M1 Vout Vin Vb Vb NMOS
* Resistor RD connected between VDD and Vout
RD VDD Vout 1k
* Voltage source Vb
? Missing component
* DC Supply Voltage
VDD VDD 0 DC 10V
* .MODEL statement to define NMOS characteristics
.model NMOS NMOS (level=1)
